US06605628B1
3-(2,4-Diethoxybenzyl)-5-(toluene-4-sulfonyl)-thiazolidine-2,4-dione
5-(Toluene-4-sulfonyl)thiazolidine-2,4-dione [U.S. Pat. No. 5,605,918; February 1997; Wrobel, et al.] was reacted with 2,4-diethoxybenzyl alcohol in the presence of triphenylphosphine and diethyl diazodicarboxylate to give the title compound as colorless crystals, mp 121-123° C.

reactant | 5-(Toluene-4-sulfonyl)thiazolidine-2,4-dione | C1(=CC=C(C=C1)S(=O)(=O)C1C(NC(S1)=O)=O)C | C10H9NO4S2
reactant | 2,4-diethoxybenzyl alcohol | C(C)OC1=C(CO)C=CC(=C1)OCC | C11H16O3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl diazodicarboxylate | [N+](=[N-])(C(=O)OCC)C(=O)OCC | C6H10N2O4
product | 3-(2,4-Diethoxybenzyl)-5-(toluene-4-sulfonyl)-thiazolidine-2,4-dione | C(C)OC1=C(CN2C(SC(C2=O)S(=O)(=O)C2=CC=C(C=C2)C)=O)C=CC(=C1)OCC | C21H23NO6S2
